US06281363B1
A solution of 0.160 g of (E)-N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide in 10 ml of methanol was hydrogenated for 3 hours in the presence of 0.02 g of 10% palladium-on-carbon. The catalyst was removed by filtration and evaporation of the solvent gave 0.120 g of N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide in the form of a white solid.

reactant | (E)-N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide | 0.160 g | O=C1N(C(N2C1CNCC2)=O)NC([C@H](CC(C)C)[C@H](C\C=C\C2=CC=CC=C2)C(NOCC2=CC=CC=C2)=O)=O | C30H37N5O5
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.02 g | [Pd] | Pd
product | N-(1,2,3,5,6,7,8,8a(RS)-octahydro-1,3-dioxoimidazo[1,5-a]pyrazin-2-yl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide | 0.120 g | O=C1N(C(N2C1CNCC2)=O)NC([C@H](CC(C)C)[C@H](CCCC2=CC=CC=C2)C(NO)=O)=O | C23H33N5O5
